US08008305B2
N-[2-(4-Phenoxy-phenyl)-ethyl]-6-pyrrolidin-1-yl-nicotinamide
In analogy to example 21, 6-chloro-nicotinic acid was coupled with 4-phenoxyphenethylamine. The intermediate 6-chloro-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide was reacted with piperidine. White solid. MS (ISP): 388.3 ([M+H]+)

reactant | 6-chloro-nicotinic acid | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 4-phenoxyphenethylamine | O(C1=CC=CC=C1)C1=CC=C(CCN)C=C1 | C14H15NO
reactant | 6-chloro-N-[2-(4-phenoxy-phenyl)-ethyl]-nicotinamide | ClC1=NC=C(C(=O)NCCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C20H17ClN2O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-[2-(4-Phenoxy-phenyl)-ethyl]-6-pyrrolidin-1-yl-nicotinamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCNC(C1=CN=C(C=C1)N1CCCC1)=O | C24H25N3O2
